US04892872
A solution of 4.56 g of 6-chloro-3,4-dihydro-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid in 100 ml of tetrahydrofuran and 10 ml of dimethylformamide is cooled to below 0° C. and 2.2 ml of triethylamine is added under stirring thereto. Further, 2.3 g of ethyl chlorocarbonate is added and the mixture is stirred at a temperature below 5° C. for an hour. To the resultant mixture is added 4.2 g of 4-amino-1-(2-phenylethyl)piperidine and the mixture stirred for 4 hours. After completion of the reaction, aqueous sodium hydrogen carbonate and ethyl acetate are added. The organic layer is separated, washed with water and dried over magnesium sulfate. The solvent is distilled off and the residue is recrystallized from ethyl acetate-ethanol to give 6-chloro-3,4-dihydro-3-oxo-N-[1-(2-phenylethyl)-4-piperidyl]-2H-1,4-benzoxazine-8-carboxamide, melting at 233°-235° C.

reactant | 6-chloro-3,4-dihydro-3-oxo-2H-1,4-benzoxazine-8-carboxylic acid | 4.56 g | ClC=1C=C(C2=C(NC(CO2)=O)C1)C(=O)O | C9H6ClNO4
reactant | ethyl chlorocarbonate | 2.3 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 4-amino-1-(2-phenylethyl)piperidine | 4.2 g | NC1CCN(CC1)CCC1=CC=CC=C1 | C13H20N2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
product | 6-chloro-3,4-dihydro-3-oxo-N-[1-(2-phenylethyl)-4-piperidyl]-2H-1,4-benzoxazine-8-carboxamide | ClC=1C=C(C2=C(NC(CO2)=O)C1)C(=O)NC1CCN(CC1)CCC1=CC=CC=C1 | C22H24ClN3O3
